US06384234B1
Preparation of (2R-trans)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-fluoro-2-pyrrolidinecarboxylic Acid
1-chloro-N-(2-chloro-4-fluoro-5-isocyanatophenyl)methanesulfonamide (120 g, 401 mmol) was dissolved in 400 mL of dry tetrahydrofuran. 55.8 g (420 mmol) of (2R-trans)-4-fluoro-2-pyrrolidinecarboxylic acid was added in a single portion and the mixture was stirred overnight at room temperature. The mixture was then filtered and the tetrahydrofuran was evaporated under reduced pressure. The residue was dissolved in 800 mL of ethyl acetate, a solution of 86.0 g of sodium bicarbonate in 870 mL of water was added and then solid sodium chloride was added to saturate the aqueous layer. The aqueous layer was separated, washed with 250 mL of ethyl acetate, and then with diethyl ether (twice with 250 mL). The aqueous layer was then added slowly to a stirred mixture of 120 mL of concentrated hydrochloric acid, 240 mL of water, and 800 mL of tetrahydrofuran. Solid sodium chloride was then added to saturate the aqueous layer, the layers were separated, and the aqueous layer was extracted with 100 mL of tetrahydrofuran. The tetrahydrofuran layers were combined, dried over magnesium sulfate, and evaporated under reduced pressure to afford 173.43 g of the title compound as a glassy solid, suitable for use in the next step. 1H NMR (DMSO-d6): δ 2.0-2.3 (m, 1H), 2.5-2.6 (m, 1H), 3.66 (m, 1H), 3.86 (m, 1H), 4.97 (s, 2H), 5.40 (d, J=54 Hz, 1H), 7.52 (d, 1H), 7.66 (d, 1H), 8.48 (s, 1H), 10.10 (br s, 1H).

reactant | 1-chloro-N-(2-chloro-4-fluoro-5-isocyanatophenyl)methanesulfonamide | 401 mmol, 120 g | ClCS(=O)(=O)NC1=C(C=C(C(=C1)N=C=O)F)Cl | C8H5Cl2FN2O3S
reactant | (2R-trans)-4-fluoro-2-pyrrolidinecarboxylic acid | 420 mmol, 55.8 g | F[C@H]1C[C@@H](NC1)C(=O)O | C5H8FNO2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | (2R-trans)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-fluoro-2-pyrrolidinecarboxylic Acid | 173.43 g | ClC1=CC(=C(C=C1NS(=O)(=O)CCl)NC(=O)N1[C@H](C[C@@H](C1)F)C(=O)O)F | C13H13Cl2F2N3O5S
